US03959365
261/2 Grams (0.205 moles) of 2-cyanopyridine, 35 grams of Dowex 1-X8 anion exchange resin (OH- form) and 175 ml. water are placed in a reaction flask fitted with a reflux condenser and magnetic stirrer. After stirring briefly to dissolve the nitrile, the mixture is heated to reflux. After 3 hours and 15 minutes, the resin is filtered off and washed with 100 ml. of boiling water. The combined filtrates are evaporated under reduced pressure, and the resulting solid dried under vacuum at 80°C. An amount of 25.6 grams of picolinamide is obtained, corresponding to an 82% yield based on 2-cyanopyridine. A small amount recrystallized from benzenehexane melts at 107.0°-108.5°C.

reactant | 2-cyanopyridine | 0.205 moles | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | water | O | H2O
product | picolinamide | 25.6 grams, 82% yield | N1=C(C=CC=C1)C(=O)N | C6H6N2O
